US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) and 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylic acid (166 mg, 0.997 mmol). The product was triturated with acetonitrile. Yield 95 mg (46%). 1H-NMR (400 MHz; d6-DMSO): δ 1.09 (d, 3H), 4.09 (t, 2H), 4.18 (t, 2H), 4.26-4.39 (m, 2H), 4.42-4.49 (m, 1H), 4.79 (s, 2H), 6.38 (s, 1H), 6.95 (d, 1H), 7.82 (d, 1H), 7.97-7.99 (m, 2H), 8.09 (s, 1H), 8.26 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxylic acid | 0.997 mmol, 166 mg | N1=C(C=C2COCCN21)C(=O)O | C7H8N2O3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazine-2-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN2C(COCC2)=C1 | C20H19ClN6O2
